US08168802B2
Under a nitrogen atmosphere, a solution of acetyl chloride (55 mg, 0.70 mmol) in ethanol (10 mL) was stirred for 10 minutes. 5-(2-Aminophenyl)-1,2-dimethyl-1H-imidazole-4-carbonitrile (0.100 g, 0.471 mmol) was added, and the reaction was heated at reflux under nitrogen for one hour and then allowed to cool to room temperature. A solid was present and was isolated by filtration, washed with diethyl ether, air-dried, and further dried under vacuum (6.65 Pa) at room temperature for 30 minutes to provide 89 mg (76%) of 1,2-dimethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride, which was found to have a 1H NMR spectrum consistent with the product.

reactant | acetyl chloride | 0.70 mmol, 55 mg | C(C)(=O)Cl | C2H3ClO
reactant | 5-(2-Aminophenyl)-1,2-dimethyl-1H-imidazole-4-carbonitrile | 0.471 mmol, 0.100 g | NC1=C(C=CC=C1)C1=C(N=C(N1C)C)C#N | C12H12N4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1,2-dimethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | 89 mg, 76% | Cl.CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | InChI=1S/C12H12N4.ClH/c1-7-14-10-11(16(7)2)8-5-3-4-6-9(8)15-12(10)13;/h3-6H,1-2H3,(H2,13,15);1H
